US07534797B2
(4-({[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-methyl)-piperidine-1-carboxylic acid benzyl ester)
(3-Chloropyrazin-2-yl)(2-phenylquinolin-7-yl)-methanamine (120.00 mg, 0.35 mmol), EDC (100.64 mg, 0.53 mmol) and HOBt (47.29 mg, 0.35 mmol) were suspended in CH2Cl2 (2 mL) and charge with DIEA (122.00 μL, 0.70 mmol) followed by the addition of 1-N-Cbz-4-piperidineacetic acid (127.56 mg, 0.46 mmol). The reaction mixture was stirred at rt for 16 h. The reaction mixture was diluted with CH2Cl2 (10 mL) and washed with saturated NaHCO3 (2×20 mL) and brine (2×20 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by a 10 g Jones silica gel (wetted with 50% EtOAc/Hexane, dried loaded onto silica, and run with 60% EtOAc/Hexanes→70% EtOAc/Hexanes) affording the desired product; 1H NMR (400 MHz, CHLOROFORM-d) δ 8.56 (1H, d, J=2.47), 8.39 (1H, d, J=2.50), 8.23 (1H, d, J=4.77), 8.11 (2H, d, J=7.06), 7.85 (3H, dd, J=8.60, J=8.38), 7.74 (1H, s), 7.50 (3H, m), 7.32 (6H, m), 6.78 (1H, d, J=7.76), 5.10 (2H, s), 4.11 (2H, m), 2.75 (2H, m), 2.21 (2H, d, J=7.00), 2.01 (1H, m), 1.67 (2H, m), 1.15 (2H, d, J=8.921); MS (ES+): m/z 605.96/606.98/608.93 (100/40/15) [MH+]; HPLC: tR=3.33 min. (OpenLynx, nonpolar—5 min.).

reactant | (3-Chloropyrazin-2-yl)(2-phenylquinolin-7-yl)-methanamine | 0.35 mmol, 120.00 mg | ClC=1C(=NC=CN1)C(N)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C20H15ClN4
reactant | EDC | 0.53 mmol, 100.64 mg
reactant | HOBt | 0.35 mmol, 47.29 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.70 mmol, 122.00 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-N-Cbz-4-piperidineacetic acid | 0.46 mmol, 127.56 mg | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)CC(=O)O | C15H19NO4
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-({[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-methyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CC(NC(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)C1=NC=CN=C1Cl)=O | C35H32ClN5O3
